US08937178B2
2-(4-(3-fluorophenyl)-7-hydroxy-1-oxophthalazin-2(1H)-yl)-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (6.5 g, 14.19 mmol) was dissolved in DMF (60 mL), treated with K2CO3 (3.04 g, 21.2 mmol) and stirred at rt for 30 min. After cooling to 0° C., EtI (1.26 mL, 15.59 mmol) was added dropwise and the reaction was warmed to rt for 1 h. It was diluted with water (20 mL) and extracted with EtOAc (2×15 mL). The organics were washed with brine (300 mL), dried over Na2SO4, and concentrated to give crude material which was purified by chromatography (40% EtOAc/hexane) to yield 2-(7-ethoxy-4-(3-fluorophenyl)-1-oxophthalazin-2(1H)-yl)-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (3.5 g) (487.52 [M+H]). 1H NMR: (400 MHz, DMSO) δ: 1.39-1.42 (t, 3H), 2.62 (s, 3H), 3.24 (s, 3H), 4.22-4.24 (d, J=7.2, 2H), 4.72 (s, 2H), 7.37-7.49 (m, 5H), 7.58-7.65 (m, 3H), 7.71-7.73 (d, J=8.4, 1H), 7.90 (s, 1H).

reactant | 2-(4-(3-fluorophenyl)-7-hydroxy-1-oxophthalazin-2(1H)-yl)-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 14.19 mmol, 6.5 g | FC=1C=C(C=CC1)C1=NN(C(C2=CC(=CC=C12)O)=O)CC(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C | C25H19FN4O4
reactant | K2CO3 | 21.2 mmol, 3.04 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtI | 15.59 mmol, 1.26 mL | C(C)I | C2H5I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-(7-ethoxy-4-(3-fluorophenyl)-1-oxophthalazin-2(1H)-yl)-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 3.5 g | C(C)OC1=CC=C2C(=NN(C(C2=C1)=O)CC(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C)C1=CC(=CC=C1)F | C27H23FN4O4
